US05478845
3-(4,5-methylenedioxy-2-nitrophenyl)acrylic acid (10 g, 42 mmol) in 50 ml dry DMF, 450 ml absolute ethanol and 1.5 ml conc. HCl was reduced catalytically at 1 atm., 22° C., using 1.5 g 5% palladium on carbon to give 6.5 g 6,7-methylenedioxy-1,2,3,4-tetrahydro-2-oxoquinoline as light brown crystals, which was used without further purification.

reactant | 3-(4,5-methylenedioxy-2-nitrophenyl)acrylic acid | 42 mmol, 10 g | C1OC2=CC(=C(C=C2O1)C=CC(=O)O)[N+](=O)[O-] | C10H7NO6
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 450 ml | C(C)O | C2H6O
solvent | HCl | 1.5 ml | Cl | ClH
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 6,7-methylenedioxy-1,2,3,4-tetrahydro-2-oxoquinoline | 6.5 g | C1OC=2C=C3CCC(NC3=CC2O1)=O | C10H9NO3
